US05661025
n-butanol/acetic acid/water (5:4:1 v/v).
A stable thioether bond forms when a sulfhydryl-containing peptide is reacted with the maleimide bearing intercalator as shown in Scheme 3 above, a sulfhydryl group may be attached to the N-terminal of the peptide with the reagent succinimidyl 3(2-pyridyldithio) propionate (Carlsson, J., et al., Biochem. 173:723 (1978)). Alternatively, the peptide may be synthesized with a cysteine residue at the appropriate location. The synthesis is robust and provides an overall yield of about 15%.

reactant | maleimide | C1(C=CC(N1)=O)=O | C4H3NO2
reactant | cysteine | N[C@@H](CS)C(=O)O | C3H7NO2S
product | n-butanol acetic acid water | yield of about 15% | C(CCC)O.C(C)(=O)O.O | InChI=1S/C4H10O.C2H4O2.H2O/c1-2-3-4-5;1-2(3)4;/h5H,2-4H2,1H3;1H3,(H,3,4);1H2
